US08975398B2
1-methyl-5-[4-({[1-(pyridazin-3-yl)azetidin-3-yl]carbonyl}amino)phenyl]-1H-pyrazole-3-carboxylic acid
Ethyl 1-methyl-5-(4-(1-(pyridazin-3-yl)azetidine-3-carboxamido)phenyl)-1H-pyrazole-3-carboxylate (368 mg, 0.905 mmol) was taken up in tetrahydrofuran (3.38 mL), and methanol (3.38 mL) then 1N aqueous lithium hydroxide (1.35 mL, 1.350 mmol) was added. The mixture was heated at 60° C. for 2 hours. The mixture was concentrated to dryness, suspended in water and treated with 1N aqueous HCl to pH 2. The solution was extracted with ethyl acetate and the organic layers were dried with sodium sulfate, filtered, and concentrated to give a colorless syrup that solidified upon standing. This solid was triturated with ether and collected by filtration to give the title compound. 1H NMR (400 MHz, DMSO-d6) δ ppm 12.67 (s, 1H), 10.32 (bs, 1H), 8.60-8.55 (m, 1H), 7.77 (d, J=8.4 Hz, 2H), 7.54 (d, J=8.4 Hz, 2H), 7.42 (dd, J=9.0, 4.5 Hz, 1H), 6.89 (d, J=8.9 Hz, 1H), 6.80 (s, 1H), 4.34-4.13 (m, 4 H), 3.91 (s, 3 H), 3.83-3.74 (m, 1H); MS (ESI(+)) m/e 379 (M+H)+.

reactant | Ethyl 1-methyl-5-(4-(1-(pyridazin-3-yl)azetidine-3-carboxamido)phenyl)-1H-pyrazole-3-carboxylate | 0.905 mmol, 368 mg | CN1N=C(C=C1C1=CC=C(C=C1)NC(=O)C1CN(C1)C=1N=NC=CC1)C(=O)OCC | C21H22N6O3
reactant | methanol | 3.38 mL | CO | CH4O
reactant | lithium hydroxide | 1.350 mmol, 1N, 1.35 mL | [OH-].[Li+]
solvent | tetrahydrofuran | 3.38 mL | O1CCCC1 | C4H8O
product | 1-methyl-5-[4-({[1-(pyridazin-3-yl)azetidin-3-yl]carbonyl}amino)phenyl]-1H-pyrazole-3-carboxylic acid | CN1N=C(C=C1C1=CC=C(C=C1)NC(=O)C1CN(C1)C=1N=NC=CC1)C(=O)O | C19H18N6O3
